US04469875
The procedure was as in Example 5 but in place of (2S)-proline there were employed 39.3 grams of (2S, 4R)-4-hydroxy-proline (0.3 mole). There were obtained 35.4 grams (67.4% of theory) of colorless crystals of (2S, 4R)-N-(2-hydroxyethyl)-4-hydroxy-proline.

reactant | (2S)-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | (2S, 4R)-4-hydroxy-proline | 0.3 mole, 39.3 grams | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
product | (2S, 4R)-N-(2-hydroxyethyl)-4-hydroxy-proline | OCCN1[C@H](C(=O)O)C[C@H](C1)O | C7H13NO4
